* C:\Users\ahmed\OneDrive - Office 365 Fontys\Fontys\Fontys\Minor\DSP\Filters\LPF.asc
XU1 N006 N004 V+ V- RCA/JACK LT6220
R1 N003 VOUT+ 15k
R2 N007 VOUT- 15k
C1 N003 N007 1500p
C2 N006 0 330p
C3 RCA/JACK N004 330p
R3 N004 N003 820
R4 N006 N007 720
R5 0 N007 6k
V1 VOUT+ 0 SINE(2.5V 2 1K)
V2 0 VOUT- SINE(-2.5 2 1K)
V3 V+ 0 15
V4 0 V- 15
R9 +XLR N002 100k
R10 N002 0 3.5k
XU2 N008 0 V+ -XLR +XLR V- 0 N002 OPA1632 OPA1632
R8 N008 N005 3.5k
R11 -XLR N008 100k
R6 N005 RCA/JACK 47
R7 RCA/JACK N003 6k
.tran 5m
.lib LTC4.LIB
.lib mylib\OPA1632.sub
.backanno
.end
